US09102688B2
2-Benzylsulfanyl-5-methyl-pyridine (Intermediate 432)
In a similar fashion using route 38 general procedure 92, 2-chloro-5-methyl pyridine (200 mg, 1.5 mmol), K2CO3 (325 mg, 2.3 mmol), benzylmercaptan (292 mg, 2.3 mmol) and DMSO (1.5 ml) at 150° C. for 4 h gave the title compound (235 mg, 69%) which was used in the next step without further purification.

reactant | 2-chloro-5-methyl pyridine | 1.5 mmol, 200 mg | ClC1=NC=C(C=C1)C | C6H6ClN
reactant | K2CO3 | 2.3 mmol, 325 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | benzylmercaptan | 2.3 mmol, 292 mg | C(C1=CC=CC=C1)S | C7H8S
solvent | DMSO | 1.5 ml | CS(=O)C | C2H6OS
product | 2-Benzylsulfanyl-5-methyl-pyridine | 235 mg, 69% | C(C1=CC=CC=C1)SC1=NC=C(C=C1)C | C13H13NS
